US06777428B1
4-[3-(2-bromobenzamidyl)benzoyl]-1-methylpiperidine
A mixture of 4-[3-aminobenzoyl]-1-methylpiperidine (50 mg, 0.229 mmol) and (piperidinomethyl)-polystyrene (100 mg, 0.260 mmol) in methylene chloride (1 mL) was allowed to stand for 5 min. To this mixture was added 2-bromobenzoyl chloride (151 mg, 0.687 mmol). The reaction mixture was mixed for 2 h at ambient temperature. The reaction mixture was filtered and the filter cake was rinsed with methanol. The filtrate solution was diluted with 10% acetic acid in methanol and poured over a Varian Mega Bond Elut™ strong cation exchange column (Siegel, M. G.; Hahn, P. J.; Dressman, B. A.; Fritz, J. E.; Grunwell, J. R.; Kaldor, S. W. Tetrahedron Lett. 1997, 38, 3357-3360). The column was rinsed with methanol to remove impurities, then treated with a 7M ammonia in methanol to elute the product from the column. The solvent was evaporated to give 45.6 mg (50%) of the title compound.

reactant | 4-[3-aminobenzoyl]-1-methylpiperidine | 0.229 mmol, 50 mg | NC=1C=C(C(=O)C2CCN(CC2)C)C=CC1 | C13H18N2O
reactant | (piperidinomethyl)-polystyrene | 0.260 mmol, 100 mg | C1CCNCC1 | C5H11N
reactant | 2-bromobenzoyl chloride | 0.687 mmol, 151 mg | BrC1=C(C(=O)Cl)C=CC=C1 | C7H4BrClO
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | 4-[3-(2-bromobenzamidyl)benzoyl]-1-methylpiperidine | 45.6 mg, 50% | BrC1=C(C(=O)NC=2C=C(C(=O)C3CCN(CC3)C)C=CC2)C=CC=C1 | C20H21BrN2O2
